US07592334B2
(e) (±)-1,1-dimethylethyl {(2S,3R)-3-hydroxy-8-[6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]dec-2-yl}carbamate
A solution of 1,1-dimethylethyl (3-hydroxy-8-azaspiro[4.5]dec-2-yl)carbamate (185 mg, 0.685 mmol) and 6-(methyloxy)-1,5-naphthyridin-4-yl trifluoromethanesulfonate (211 mg, 0.685 mmol) in DMF (1 mL) were stirred at 90° C. After 12 h, the solution was concentrated and the residue purified via column chromatography (silica, 1-2% MeOH in DCM (1% NH4OH)) yielding the title compound (220 mg, 75%) as a white foam: LCMS (ES) m/e 430 (M+H)+.

reactant | 1,1-dimethylethyl (3-hydroxy-8-azaspiro[4.5]dec-2-yl)carbamate | 0.685 mmol, 185 mg | OC1C(CC2(C1)CCNCC2)NC(OC(C)(C)C)=O | C14H26N2O3
reactant | 6-(methyloxy)-1,5-naphthyridin-4-yl trifluoromethanesulfonate | 0.685 mmol, 211 mg | FC(S(=O)(=O)OC1=CC=NC2=CC=C(N=C12)OC)(F)F | C10H7F3N2O4S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (±)-1,1-dimethylethyl {(2S,3R)-3-hydroxy-8-[6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]dec-2-yl}carbamate | 220 mg, 75% | O[C@H]1[C@H](CC2(C1)CCN(CC2)C2=CC=NC1=CC=C(N=C21)OC)NC(OC(C)(C)C)=O | C23H32N4O4
